US04026884
1,3-Diethyl-2,3-dihydro-(2-propynylidene)-1H-imidazo[4,5-b]quinoxaline
A mixture of 2-(2-Chloro-2-propenyl)-1,3-diethyl-1H-imidazo[4,5-b]quinoxalinium perchlorate 2.00 g (0.005 mole) and dry acetonitrile (20 ml) is stirred astriethylamine (1.50 g) is added in one portion to give a clear solution from which solid soon begins to separate. After 1 minute, the solid is collected, washed with several small portions of acetonitrile and dried invacuum at room temperature. Yield 0.63 g (48%). m.w. 264. The elemental analysis, infrared and nuclear magnetic resonance spectral support the assigned structure.

reactant | 2-(2-Chloro-2-propenyl)-1,3-diethyl-1H-imidazo[4,5-b]quinoxalinium perchlorate | 0.005 mole, 2.00 g | Cl(=O)(=O)(=O)[O-].ClC(CC1N(C=2C(=NC3=CC=CC=C3N2)[NH+]1CC)CC)=C
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 1,3-Diethyl-2,3-dihydro-(2-propynylidene)-1H-imidazo[4,5-b]quinoxaline | C(C)N1C(N(C=2C1=NC1=CC=CC=C1N2)CC)=CC#C | C16H16N4
